US07238808B2
Step 1: 2-Nitro-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenylamine
Commercially available 5-chloro-2-nitro-4-trifluoromethyl-phenylamine [CAS-No. 35375–74–7] (72.2 g, 300 mmol) was dissolved in DMSO (600 mL) and 2,2,2-trifluoroethanol (270 mL) were added at 23° C., the slightly exothermic reaction was cooled with a ice bath. KOH (85%, 99.0 g, 1500 mmol) were added slowly and the dark red reaction mixture was stirred at 23° C. for 4 days. Transferred into a 3 L flask and 1500 mL H2O were added under ice bath cooling, acidified with 3 N HCl and stirred at 23° C. for 3 h, filtered off the yellow precipitate, washed with H2O and dried in air at 60° C. to give the title compound as a yellow solid (89.47 g, 98%). MS (ISN) 303.1 [M−H].

reactant | 5-chloro-2-nitro-4-trifluoromethyl-phenylamine | 300 mmol, 72.2 g | ClC=1C(=CC(=C(C1)N)[N+](=O)[O-])C(F)(F)F | C7H4ClF3N2O2
reactant | 2,2,2-trifluoroethanol | 270 mL | FC(CO)(F)F | C2H3F3O
reactant | KOH | 1500 mmol, 99.0 g | [OH-].[K+]
reactant | HCl | 3 N | Cl | ClH
solvent | DMSO | 600 mL | CS(=O)C | C2H6OS
solvent | H2O | 1500 mL | O | H2O
product | 2-Nitro-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenylamine | 89.47 g, 98% | [N+](=O)([O-])C1=C(C=C(C(=C1)C(F)(F)F)OCC(F)(F)F)N | C9H6F6N2O3
